data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_690581_0,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[O:7][H:9])[N:6]([O:8][H:10])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[N:6]([O:8][H:10])[H:11])[O:7][H:9],72.8389449999743
MR_267036_1,[C:1](\[N:2]([H:8])[H:9])([C:3](=[C:4]([H:11])[H:12])[H:10])=[N:6]/[O:5][H:7]>>[C:1]1([N:2]([H:8])[H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[N:6]1[O:5][H:7],51.05151750001596
MR_518175_0,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4](=[N:7]/[N:3]([H:10])[H:11])[H:12])([O:5][H:8])[O:6][H:9]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([O:5][H:8])[C:4]([O:6][H:9])([H:12])[N:7]1[N:3]([H:10])[H:11],65.89691249998765
MR_669415_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:5]12[O:8][N:9]1[C:6]([N:7]([H:11])[H:12])=[N:10]2>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[c:5]1[o:8][n:9][c:6]([N:7]([H:11])[H:12])[n:10]1,10.277195000019788
MR_208202_0,[C:1]([N:3]([C:2]([H:11])([H:12])[H:14])[O:5][C:4]([O:6][H:8])=[O:7])([H:9])([H:10])[H:13]>>[C:1]([N:3]([C:2]([H:11])([H:12])[H:14])[O:7][C:4](=[O:5])[O:6][H:8])([H:9])([H:10])[H:13],50.82122499999102
MR_273976_1,[C:1]([C:4](/[C:3](=[C:5](\[C:2]([H:19])([H:20])[H:21])[N:8]([H:14])[H:15])[N:7]([H:12])[H:13])=[N:9]\[N:6]([H:10])[H:11])([H:16])([H:17])[H:18]>>[C:1]([C:4]1=[C:3]([N:7]([H:12])[H:13])[C@:5]([C:2]([H:19])([H:20])[H:21])([N:8]([H:14])[H:15])[N:9]1[N:6]([H:10])[H:11])([H:16])([H:17])[H:18],33.25561750000304
MR_415002_1,[C:1]12(/[C:3](=[N:7]\[H:8])[H:10])[O:4][N:5]1[C:2]([H:9])=[N:6]2>>[c:1]1(/[C:3](=[N:7]\[H:8])[H:10])[o:4][n:5][c:2]([H:9])[n:6]1,10.621692500006075
MR_381285_0,[C:1]([C:2]([H:12])([H:14])[H:15])([C:3]([H:13])([H:16])[H:17])([N:4]([C:6](=[O:7])[H:11])[H:8])[N:5]([H:9])[H:10]>>[C:1]([C:2]([H:12])([H:14])[H:15])([C:3]([H:13])([H:16])[H:17])([N:4]([N:5]([H:9])[H:10])[H:8])[C:6](=[O:7])[H:11],56.62371750003686
MR_28415_0,[C:1](/[C:2]([N:3]([H:7])[H:8])=[N:5]\[O:4][H:6])([H:9])([H:10])[H:11]>>[C:1](/[C:2](=[N:3]/[H:7])[N:5]([O:4][H:6])[H:8])([H:9])([H:10])[H:11],41.62772250001737
MR_230045_2,[C:1]1(=[N:6]/[C:3]([N:2]([H:7])[H:8])([H:9])[H:10])\[C:4]([H:11])([H:12])[O:5]1>>[C:1](=[C:4]([H:11])[H:12])([O:5][N:2]([H:7])[H:8])[N:6]=[C:3]([H:9])[H:10],55.15097500000991
MR_119209_0,[C@:1]([C@:2]([C:3]([H:18])([H:19])[H:20])([N:7]([H:16])[H:17])[H:13])([C:5]([C:4]([O:8][H:11])=[O:9])=[O:10])([N:6]([H:14])[H:15])[H:12]>>[C:1]([C:4]([O:8][H:11])=[O:9])([C:5]([C:2]([C:3]([H:18])([H:19])[H:20])([N:7]([H:16])[H:17])[H:13])=[O:10])([N:6]([H:14])[H:15])[H:12],48.66388000005173
MR_559324_0,[C:1]([C:2]([O:8][N:7]([H:10])[H:11])([H:12])[H:13])([C:5]([H:20])([H:21])[H:22])([N:6]([C:3]([H:15])([H:16])[H:17])[C:4]([H:14])([H:18])[H:19])[H:9]>>[C:1]([C:2]([N:6]([C:3]([H:15])([H:16])[H:17])[C:4]([H:14])([H:18])[H:19])([H:12])[H:13])([C:5]([H:20])([H:21])[H:22])([O:8][N:7]([H:10])[H:11])[H:9],69.79055000000187
MR_96603_0,[N:1](/[C:2]([N:3]([H:10])[H:11])=[C:5](/[O:6][H:8])[H:13])([C:4](=[O:7])[H:12])[H:9]>>[N:1]1([H:9])[C@:2]([N:3]([H:10])[H:11])([C:4](=[O:7])[H:12])[C@:5]1([O:6][H:8])[H:13],68.82168999998683
MR_264451_1,[N:1]([C:3]([C:2](=[C:5]([H:12])[H:13])[O:8][H:9])=[C:6]([H:14])[H:15])([C:4](=[C:7]([H:16])[H:17])[H:11])[H:10]>>[N:1]([C:2](=[C:5]([H:12])[H:13])[O:8][H:9])([C:3]([C:4](=[C:7]([H:16])[H:17])[H:11])=[C:6]([H:14])[H:15])[H:10],58.56206499999402
MR_398752_1,[C:1](/[C:4]([N:3]([N:6]([H:11])[H:12])[C:7](=[O:9])[H:13])=[C:5](/[C:2]([H:17])([H:18])[H:19])[O:8][H:10])([H:14])([H:15])[H:16]>>[C:1](/[C:4](=[N:3]\[N:6]([H:11])[H:12])[C:5]([C:2]([H:17])([H:18])[H:19])([C:7](=[O:9])[H:13])[O:8][H:10])([H:14])([H:15])[H:16],59.06783000000118
MR_45068_1,[C:1](/[N:7]=[C:5](/[C:6](=[C:2]([N:3]([H:8])[H:9])[N:4]([H:10])[H:11])[H:13])[H:12])([H:14])([H:15])[H:16]>>[C:1]([N:7]1[C:2]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[C:6]([H:13])=[C:5]1[H:12])([H:14])([H:15])[H:16],45.25843749998202
MR_396068_0,[C:1]([n:2]1/[c:3](=[N:8]\[H:11])[o:7][c:6]([H:12])[c:4]1[N:5]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:4](\[N:5]([H:9])[H:10])[C:6]1([H:12])/[C:3](=[N:8]/[H:11])[O:7]1)([H:13])([H:14])[H:15],69.04319749999829
MR_272909_1,[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:17])([H:21])[H:22])([N:5]([C:2]([H:14])([H:15])[H:16])/[C:6]([N:7]([H:12])[H:13])=[N:9]/[O:8][H:10])[H:11]>>[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:17])([H:21])[H:22])([N:9](/[C:6](=[N:5]/[C:2]([H:14])([H:15])[H:16])[N:7]([H:12])[H:13])[O:8][H:10])[H:11],64.74858750003335
MR_14844_1,[C:1]([C:2](=[C:4](\[N:3]([H:7])[H:8])[H:10])/[C:5](=[N:6]/[H:9])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:2]1=[C:5]([H:11])[N:6]([H:9])[C:4]1([N:3]([H:7])[H:8])[H:10])([H:12])([H:13])[H:14],38.58811249998709
